* SDFSTPD1 : abstract conversion of sky130_fd_sc_hd__sdfstp_1
* 55 abstract devices (width -> parallel min-width fingers)
.subckt SDFSTPD1 CLK D SCD SCE SET_B VGND VPWR Q
XSDFSTPD1B CLK D SCD SCE SET_B VGND VGND VPWR VPWR Q SDFSTPD1B
.ends SDFSTPD1

.subckt SDFSTPD1B CLK D SCD SCE SET_B VGND VNB VPB VPWR Q
X0 a_1087_47# a_1129_21# VGND VNB abnmos
X1 a_1525_329# a_997_413# VPWR VPB abpmos
X2 a_1525_329# a_997_413# VPWR VPB abpmos
X3 a_1525_329# a_643_369# a_1597_329# VPB abpmos
X4 a_1525_329# a_643_369# a_1597_329# VPB abpmos
X5 a_1597_329# a_809_369# a_1723_413# VPB abpmos
X6 a_1597_329# a_643_369# a_1815_47# VNB abnmos
X7 a_809_369# a_643_369# VPWR VPB abpmos
X8 a_809_369# a_643_369# VPWR VPB abpmos
X9 a_1129_21# a_997_413# a_1347_47# VNB abnmos
X10 a_319_21# SCE VPWR VPB abpmos
X11 a_319_21# SCE VPWR VPB abpmos
X12 a_1129_21# SET_B VPWR VPB abpmos
X13 a_265_47# a_319_21# VGND VNB abnmos
X14 a_1347_47# SET_B VGND VNB abnmos
X15 a_643_369# CLK VPWR VPB abpmos
X16 a_643_369# CLK VPWR VPB abpmos
X17 Q a_2227_47# VPWR VPB abpmos
X18 Q a_2227_47# VPWR VPB abpmos
X19 Q a_2227_47# VPWR VPB abpmos
X20 a_1129_21# a_997_413# VPWR VPB abpmos
X21 a_181_47# D a_265_47# VNB abnmos
X22 a_319_21# SCE VGND VNB abnmos
X23 a_997_413# a_809_369# a_1087_47# VNB abnmos
X24 a_1514_47# a_997_413# VGND VNB abnmos
X25 a_1514_47# a_997_413# VGND VNB abnmos
X26 a_1514_47# a_809_369# a_1597_329# VNB abnmos
X27 a_1514_47# a_809_369# a_1597_329# VNB abnmos
X28 a_1781_295# a_1597_329# VGND VNB abnmos
X29 a_1723_413# a_1781_295# VPWR VPB abpmos
X30 a_109_47# SCE a_181_47# VNB abnmos
X31 a_643_369# CLK VGND VNB abnmos
X32 a_997_413# a_643_369# a_1081_413# VPB abpmos
X33 a_181_47# a_319_21# a_27_369# VPB abpmos
X34 a_181_47# a_319_21# a_27_369# VPB abpmos
X35 a_1887_47# SET_B VGND VNB abnmos
X36 a_27_369# SCD VPWR VPB abpmos
X37 a_27_369# SCD VPWR VPB abpmos
X38 a_193_369# SCE VPWR VPB abpmos
X39 a_193_369# SCE VPWR VPB abpmos
X40 a_181_47# a_809_369# a_997_413# VPB abpmos
X41 a_193_369# D a_181_47# VPB abpmos
X42 a_193_369# D a_181_47# VPB abpmos
X43 a_1815_47# a_1781_295# a_1887_47# VNB abnmos
X44 a_1781_295# a_1597_329# VPWR VPB abpmos
X45 a_109_47# SCD VGND VNB abnmos
X46 a_2227_47# a_1597_329# VPWR VPB abpmos
X47 a_2227_47# a_1597_329# VPWR VPB abpmos
X48 a_809_369# a_643_369# VGND VNB abnmos
X49 Q a_2227_47# VGND VNB abnmos
X50 Q a_2227_47# VGND VNB abnmos
X51 a_1597_329# SET_B VPWR VPB abpmos
X52 a_1081_413# a_1129_21# VPWR VPB abpmos
X53 a_181_47# a_643_369# a_997_413# VNB abnmos
X54 a_2227_47# a_1597_329# VGND VNB abnmos
.ends SDFSTPD1B
